US09227970B2
2-Methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide
Using morpholine and 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. White solid (130 mg, 65%). MS: m/z=441 (M+H+).

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
product | 2-Methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide | N1(CCOCC1)C1=NN2C(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C20H24N8O4
